US06110937
The (S)-1-cyclopropylmethyl-3-(2,6-dimethylphenoxymethyl)piperidine was dissolved in dry ether (125 mL) and treated with 1M hydrochloric acid in ether (18.9 mL). The white precipitate was collected and dried under vacuum to give (S)-1-cyclopropylmethyl-3-(2,6-dimethylphenoxymethyl)-piperidine hydrochloride, (3.6 g, 66%), m.p. 137.3-137.5° C.

reactant | (S)-1-cyclopropylmethyl-3-(2,6-dimethylphenoxymethyl)piperidine | C1(CC1)CN1C[C@H](CCC1)COC1=C(C=CC=C1C)C | C18H27NO
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ether | 125 mL | CCOCC | C4H10O
solvent | ether | 18.9 mL | CCOCC | C4H10O
product | (S)-1-cyclopropylmethyl-3-(2,6-dimethylphenoxymethyl)-piperidine hydrochloride | 3.6 g, 66% | Cl.C1(CC1)CN1C[C@H](CCC1)COC1=C(C=CC=C1C)C | InChI=1S/C18H27NO.ClH/c1-14-5-3-6-15(2)18(14)20-13-17-7-4-10-19(12-17)11-16-8-9-16;/h3,5-6,16-17H,4,7-13H2,1-2H3;1H/t17-;/m0./s1
